### PR TITLE
feat(Analysis/SpecialFunctions/Gamma/Digamma): the real digamma function, its asymptotics, and Gauss' series

### PR DESCRIPTION
**Pull request by teorth**
This extends the digamma file with the real digamma function, its logarithmic
asymptotics, and Gauss' series for `ψ`.

---

Main additions:

`Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean`
* `Real.digamma`, the real digamma function `logDeriv Real.Gamma`, and its
  real functional equations (`Real.digamma_apply_add_one`, `..._add_nat`,
  `..._nat_add_one`, `..._one_sub`, `..._two_mul`), obtained from the complex
  versions via the bridge below.
* `Complex.digamma_ofReal : Complex.digamma x = Real.digamma x` (a `simp`
  lemma, unconditional thanks to matching junk values at the non-positive
  integers), and `Complex.digamma_eq_re`.
* Real asymptotics: `Real.monotoneOn_digamma` (monotone on `Ioi 0`, via
  log-convexity of `Γ`), `Real.digamma_le_log_le` (`ψ x ≤ log x ≤ ψ (x + 1)`),
  and `Real.abs_digamma_sub_log_le` (`|ψ x - log x| ≤ 1 / x`).
* `Complex.gammaAnalyticSet`, the complement of the non-positive integers,
  with `isOpen_gammaAnalyticSet`, `isPreconnected_gammaAnalyticSet`,
  `Complex.differentiableOn_Gamma`, and `Complex.differentiableOn_digamma`.
* **Gauss' series** `ψ(s) = -γ + ∑ₙ (1/(n+1) - 1/(s+n))`
  (`Complex.digamma_eq_gaussSeries`, `Real.digamma_eq_gaussSeries`,
  `summable_gaussSeries`). The error is shown to vanish on the positive reals
  (a finite partial-sum identity together with `abs_digamma_sub_log_le`) and to
  be analytic off the poles, hence zero everywhere by the identity theorem.

`Mathlib/Analysis/Complex/RealDeriv.lean`
* `logDeriv_comp_ofReal`, `logDeriv_ofReal_comp`, relating the real and complex
  logarithmic derivatives along the reals.

`Mathlib/Analysis/SpecialFunctions/Gamma/Deriv.lean`
* Real analogues of the existing complex lemmas: `Real.continuousAt_Gamma`,
  and non-continuity/non-differentiability of `Real.Gamma` at the non-positive
  integers.

Several complex analysis imports were added to `Digamma.lean` in order to justify the proof of the Gauss identity in the complex case.

The code was initially generated by an AI, and then heavily golfed and reviewed by the author.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 1]
```diff
@@ -150,4 +171,331 @@ theorem digamma_two_mul {s : ℂ} (hs : ∀ m : ℕ, 2 * s ≠ -(m : ℂ)) :
...
+    · convert! (Complex.continuous_ofReal.tendsto _).comp (tendsto_const_nhds.add
+        (Tendsto.div_atTop tendsto_const_nhds (tendsto_atTop_add_const_right atTop 1
+        tendsto_natCast_atTop_atTop)))
+      simp
+    · filter_upwards
+      grind [Complex.ofReal_eq_one]
+  refine analyticOnNhd_gaussErr.eqOn_zero_of_preconnected_of_frequently_eq_zero
+    isPreconnected_gammaAnalyticSet h1 ?_ hs
+  exact this.frequently (Eventually.of_forall fun _ ↦ gaussErr_ofReal
+      (ofReal_mem_gammaAnalyticSet (by positivity))).frequently
```
Comment (metakunt) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean:474]: Why not do a nonpublic section. That way you can remove the private on every declaration?
